US04775692
Dimethyl methylphosphonate (7.6 g, 0.061 mol) was dissolved in 70 ml anhydrous THF under argon atmosphere. To the mixture stirred at -78° C. was added dropwise n-butyl lithium (1.44N, 42.4 ml, 0.061 mol). After 30 minutes, methyl 2,2-dimethyloctanoate (4.5 g, 0.024 mol) was further added dropwise. After being stirred for 30 minutes the mixture was warmed to room temperature. To the mixture cooled with ice bath were added 3.8 ml of acetic acid and 10 ml of water. After concentration of the reaction mixture, 20 ml of water was added to the residue and the mixture was extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were washed with water (20 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. Distillation of the residue gave dimethyl 3,3-dimethyl-2-oxononanylphosphonate (5.34 g, 0.0192 mol, 79%, b.p. 137° -140° C./0.6 mmHg). The structure of this product was confirmed by the following data.

reactant | Dimethyl methylphosphonate | 0.061 mol, 7.6 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 0.061 mol, 1.44N, 42.4 ml | C(CCC)[Li]
reactant | methyl 2,2-dimethyloctanoate | 0.024 mol, 4.5 g | CC(C(=O)OC)(CCCCCC)C | C11H22O2
reactant | acetic acid | 3.8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | dimethyl 3,3-dimethyl-2-oxononanylphosphonate | 0.0192 mol, 5.34 g, 79% | CC(C(CP(OC)(OC)=O)=O)(CCCCCC)C | C13H27O4P
